US04939289
Preparation of 3-Hydroxypropyl Dimethyl Octadecyl Ammonium Chloride
Employing the procedure of EXAMPLE II, 31.3 g of N,N-dimethyloctadecylamine was reacted with 9.0 g of 3-chloropropanol in 100 ml of acetonitrile to provide a crude product which was recrystallized from acetone to give 29.0 g (70%) of white solids. Proton NMR confirmed the desired structure.

reactant | N,N-dimethyloctadecylamine | 31.3 g | CN(C)CCCCCCCCCCCCCCCCCC | C20H43N
reactant | 3-chloropropanol | 9.0 g | ClCCCO | C3H7ClO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-Hydroxypropyl Dimethyl Octadecyl Ammonium Chloride | 29.0 g, 70% | [Cl-].OCCC[N+](CCCCCCCCCCCCCCCCCC)(C)C | InChI=1S/C23H50NO.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-24(2,3)22-20-23-25;/h25H,4-23H2,1-3H3;1H/q+1;/p-1
